US08039463B2
LiOH.H2O (1.57 g, 37 mmol) was added to a solution of malonic acid tert-butyl ester ethyl ester (4.7 g, 25 mmol) in a mixture of methanol (23 mL), THF (47 mL) and H2O (14 mL). The reaction mixture was stirred for 1 hour at room temperature then concentrated to afford 4.0 g (96%) of lithium tert-butoxycarbonyl-acetate. 1H NMR: (DMSO-d6): δ 2.8 (s, 2H), 1.4 (s, 9H).

reactant | LiOH.H2O | 37 mmol, 1.57 g | O[Li].O
reactant | malonic acid tert-butyl ester ethyl ester | 25 mmol, 4.7 g | C(C)OC(CC(=O)OC(C)(C)C)=O | C9H16O4
reactant | THF | 47 mL | C1CCOC1 | C4H8O
reactant | H2O | 14 mL | O | H2O
solvent | methanol | 23 mL | CO | CH4O
product | lithium tert-butoxycarbonyl-acetate | 4.0 g, 96% | C(C)(C)(C)OC(=O)CC(=O)[O-].[Li+] | InChI=1S/C7H12O4.Li/c1-7(2,3)11-6(10)4-5(8)9;/h4H2,1-3H3,(H,8,9);/q;+1/p-1
